US04985444
To a ethanol (21 ml) solution of 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.42 g) was added 20 W/V % ethanolic hydrogen chloride solution at room temperature, and stirred for an hour. The precipitates were collected by filtration to give 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine hydrochloride (0.23 g).

reactant | 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.42 g | CC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H14N4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 21 ml | C(C)O | C2H6O
product | 3-(3-methylpyridazin-4-yl)-2-phenylpyrazolo[1,5-a]pyridine hydrochloride | 0.23 g | Cl.CC=1N=NC=CC1C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | InChI=1S/C18H14N4.ClH/c1-13-15(10-11-19-20-13)17-16-9-5-6-12-22(16)21-18(17)14-7-3-2-4-8-14;/h2-12H,1H3;1H
